US07560558B2
Ethyl 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate (25.5 g) was suspended in a 2 M aqueous sodium hydroxide solution (250 ml), and the mixture was heated under reflux for 4 hr. The reaction solution was cooled to room temperature, the aqueous layer was then washed with chloroform and was neutralized with dilute hydrochloric acid. The precipitated crystal was collected by filtration and was washed with water, isopropanol, and hexane in that order to give 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (22.1 g, yield 98%).

reactant | Ethyl 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 25.5 g | COC=1C=C2C(C(=CNC2=CC1C)C(=O)OCC)=O | C14H15NO4
solvent | sodium hydroxide | 2 M, 250 ml | [OH-].[Na+]
product | 6-methoxy-7-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 22.1 g, yield 98% | COC=1C=C2C(C(=CNC2=CC1C)C(=O)O)=O | C12H11NO4
